US04200572
cis-2-Azidomethyl-3-t-butoxycarbonylamino-4-oxoazetidine
Sodium borohydride reduction of methyl cis-3-t-butoxycarbonylamino-4-oxoazetidine-2-carboxylate as described in Preparation 3, followed by conversion of the 2-hydroxymethylazetidine product to the p-toluenesulfonate derivative, mp 160°-162°(d), and the reaction of the derivative with sodium azide as described in Preparation 4 gives the title compound.

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | methyl cis-3-t-butoxycarbonylamino-4-oxoazetidine-2-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](NC1=O)C(=O)OC | C10H16N2O5
reactant | 2-hydroxymethylazetidine | OCC1NCC1 | C4H9NO
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | cis-2-Azidomethyl-3-t-butoxycarbonylamino-4-oxoazetidine | N(=[N+]=[N-])C[C@@H]1NC([C@@H]1NC(=O)OC(C)(C)C)=O | C9H15N5O3
